US06831081B2
N-(4-Chlorobenzyl)-2-(((3R)-3-((S)hydroxy(phenyl)methyl)morpholin-4-yl)-methyl)-7-methyl-4-oxo-4,7-dihydrothieno[2,3-b]pyridine-5-carboxamide
N-(4-Chlorobenzyl)-2-(chloromethyl)-7-methyl-4-oxo-4,7-dihydrothieno[2,3-b]pyridine-5-carboxamide (Preparation 1, 134 mg) and (S)-(3R)-morpholin-3-yl(phenyl)methanol hydrochloride (Preparation 9, 111 mg) in DMF (3 mL) is treated with diisopropylethylamine (0.5 mL). The mixture is heated at 90° C. overnight. After cooling to room temperature, the solution is poured into ethyl acetate (75 mL) and washed with dilute pH 4 phosphate buffer (10 mL), dilute pH 7 phosphate buffer (10 mL), and brine (10 mL). The organic layer is dried (Na2SO4), filtered and concentrated under reduced pressure. The resulting residue is purified by flash column chromatography (methanol/CH2Cl2, 1-3%) and ethyl acetate-hexanes crystallization to afford 0.13 g of the title compound Physical characteristics. M.p. 129-134° C.; 1H NMR (400 MHz, DMSO-d6) δ 10.60, 8.67, 7.41-7.25, 5.33, 5.07, 4.54, 4.17, 3.88, 3.81, 3.73, 3.6, 3.5-3.4, 2.94, 2.6, 2.4-2.3; HRMS m/z 538.1561 (M+H)+. Anal. Found: C, 62.33; H, 5.25; N, 7.75.

reactant | N-(4-Chlorobenzyl)-2-(chloromethyl)-7-methyl-4-oxo-4,7-dihydrothieno[2,3-b]pyridine-5-carboxamide | 134 mg | ClC1=CC=C(CNC(=O)C=2C(C3=C(N(C2)C)SC(=C3)CCl)=O)C=C1 | C17H14Cl2N2O2S
reactant | (S)-(3R)-morpholin-3-yl(phenyl)methanol hydrochloride | 111 mg | Cl.N1[C@H](COCC1)[C@@H](O)C1=CC=CC=C1
reactant | diisopropylethylamine | 0.5 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | ethyl acetate | 75 mL | C(C)(=O)OCC | C4H8O2
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | N-(4-Chlorobenzyl)-2-(((3R)-3-((S)hydroxy(phenyl)methyl)morpholin-4-yl)-methyl)-7-methyl-4-oxo-4,7-dihydrothieno[2,3-b]pyridine-5-carboxamide | 0.13 g | ClC1=CC=C(CNC(=O)C=2C(C3=C(N(C2)C)SC(=C3)CN3[C@H](COCC3)[C@H](C3=CC=CC=C3)O)=O)C=C1 | C28H28ClN3O4S
